US07199265B2
Sulphuric acid (1.0 mL, 20%) was added to a mixture of diethyl(3,5-diisopropyl-4-[3-methoxy-4-nitrophenoxy]benzyl) malonate (1.4 g), acetic acid (5 mL) and water (5 mL). After heating for 8 hours at 80° C., the reaction mixture was concentrated and ethyl acetate was added to the residue. The organic phase was washed with water and brine. After recrystallization (ethyl acetate/petrolium ether), 1.1 g of 3,5-diisopropyl-4-(3-methoxy-4-nitrophenoxy)phenylpropionic acid was obtained.

reactant | Sulphuric acid | 1.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | diethyl(3,5-diisopropyl-4-[3-methoxy-4-nitrophenoxy]benzyl) malonate | 1.4 g | C(CC(=O)[O-])(=O)OC(C1=CC(=C(C(=C1)C(C)C)OC1=CC(=C(C=C1)[N+](=O)[O-])OC)C(C)C)(CC)CC
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
product | 3,5-diisopropyl-4-(3-methoxy-4-nitrophenoxy)phenylpropionic acid | 1.1 g | C(C)(C)C=1C=C(C=C(C1OC1=CC(=C(C=C1)[N+](=O)[O-])OC)C(C)C)C(C(=O)O)C | C22H27NO6
